$ Spice netlist generated by v2lvs
$ v2013.3_28.19    Tue Sep 3 16:44:15 PDT 2013

.SUBCKT c499 N11 N15 N19 N113 N117 N121 N125 N129 N133 N137 N141 N145 N149 N153 
+ N157 N161 N165 N169 N173 N177 N181 N185 N189 N193 N197 N1101 N1105 N1109 
+ N1113 N1117 N1121 N1125 N1129 N1130 N1131 N1132 N1133 N1134 N1135 N1136 N1137 
+ N1724 N1725 N1726 N1727 N1728 N1729 N1730 N1731 N1732 N1733 N1734 N1735 N1736 
+ N1737 N1738 N1739 N1740 N1741 N1742 N1743 N1744 N1745 N1746 N1747 N1748 N1749 
+ N1750 N1751 N1752 N1753 N1754 N1755 N21 N25 N29 N213 N217 N221 N225 N229 N233 
+ N237 N241 N245 N249 N253 N257 N261 N265 N269 N273 N277 N281 N285 N289 N293 
+ N297 N2101 N2105 N2109 N2113 N2117 N2121 N2125 N2129 N2130 N2131 N2132 N2133 
+ N2134 N2135 N2136 N2137 N2724 N2725 N2726 N2727 N2728 N2729 N2730 N2731 N2732 
+ N2733 N2734 N2735 N2736 N2737 N2738 N2739 N2740 N2741 N2742 N2743 N2744 N2745 
+ N2746 N2747 N2748 N2749 N2750 N2751 N2752 N2753 N2754 N2755 
XAND2_117 N1266 N1129 N1137 and 
XAND2_118 N1267 N1130 N1137 and 
XAND2_119 N1268 N1131 N1137 and 
XAND2_120 N1269 N1132 N1137 and 
XAND2_121 N1270 N1133 N1137 and 
XAND2_122 N1271 N1134 N1137 and 
XAND2_123 N1272 N1135 N1137 and 
XAND2_124 N1273 N1136 N1137 and 
XAND4_1121 N1594 N1554 N1555 N1556 N1393 and 
XAND4_1122 N1595 N1557 N1558 N1380 N1559 and 
XAND4_1123 N1596 N1560 N1367 N1561 N1562 and 
XAND4_1124 N1597 N1354 N1563 N1564 N1565 and 
XAND4_1125 N1598 N1574 N1575 N1576 N1445 and 
XAND4_1126 N1599 N1577 N1578 N1432 N1579 and 
XAND4_1127 N1600 N1580 N1419 N1581 N1582 and 
XAND4_1128 N1601 N1406 N1583 N1584 N1585 and 
XAND5_1131 N1620 N1406 N1566 N1432 N1567 N1602 and 
XAND5_1132 N1625 N1406 N1568 N1569 N1445 N1602 and 
XAND5_1133 N1630 N1570 N1419 N1432 N1571 N1602 and 
XAND5_1134 N1635 N1572 N1419 N1573 N1445 N1602 and 
XAND5_1135 N1640 N1354 N1586 N1380 N1587 N1607 and 
XAND5_1136 N1645 N1354 N1588 N1589 N1393 N1607 and 
XAND5_1137 N1650 N1590 N1367 N1380 N1591 N1607 and 
XAND5_1138 N1655 N1592 N1367 N1593 N1393 N1607 and 
XAND2_1139 N1692 N1354 N1620 and 
XAND2_1140 N1693 N1367 N1620 and 
XAND2_1141 N1694 N1380 N1620 and 
XAND2_1142 N1695 N1393 N1620 and 
XAND2_1143 N1696 N1354 N1625 and 
XAND2_1144 N1697 N1367 N1625 and 
XAND2_1145 N1698 N1380 N1625 and 
XAND2_1146 N1699 N1393 N1625 and 
XAND2_1147 N1700 N1354 N1630 and 
XAND2_1148 N1701 N1367 N1630 and 
XAND2_1149 N1702 N1380 N1630 and 
XAND2_1150 N1703 N1393 N1630 and 
XAND2_1151 N1704 N1354 N1635 and 
XAND2_1152 N1705 N1367 N1635 and 
XAND2_1153 N1706 N1380 N1635 and 
XAND2_1154 N1707 N1393 N1635 and 
XAND2_1155 N1708 N1406 N1640 and 
XAND2_1156 N1709 N1419 N1640 and 
XAND2_1157 N1710 N1432 N1640 and 
XAND2_1158 N1711 N1445 N1640 and 
XAND2_1159 N1712 N1406 N1645 and 
XAND2_1160 N1713 N1419 N1645 and 
XAND2_1161 N1714 N1432 N1645 and 
XAND2_1162 N1715 N1445 N1645 and 
XAND2_1163 N1716 N1406 N1650 and 
XAND2_1164 N1717 N1419 N1650 and 
XAND2_1165 N1718 N1432 N1650 and 
XAND2_1166 N1719 N1445 N1650 and 
XAND2_1167 N1720 N1406 N1655 and 
XAND2_1168 N1721 N1419 N1655 and 
XAND2_1169 N1722 N1432 N1655 and 
XAND2_1170 N1723 N1445 N1655 and 
XAND2_217 N2266 N2129 N2137 and 
XAND2_218 N2267 N2130 N2137 and 
XAND2_219 N2268 N2131 N2137 and 
XAND2_220 N2269 N2132 N2137 and 
XAND2_221 N2270 N2133 N2137 and 
XAND2_222 N2271 N2134 N2137 and 
XAND2_223 N2272 N2135 N2137 and 
XAND2_224 N2273 N2136 N2137 and 
XAND4_2121 N2594 N2554 N2555 N2556 N2393 and 
XAND4_2122 N2595 N2557 N2558 N2380 N2559 and 
XAND4_2123 N2596 N2560 N2367 N2561 N2562 and 
XAND4_2124 N2597 N2354 N2563 N2564 N2565 and 
XAND4_2125 N2598 N2574 N2575 N2576 N2445 and 
XAND4_2126 N2599 N2577 N2578 N2432 N2579 and 
XAND4_2127 N2600 N2580 N2419 N2581 N2582 and 
XAND4_2128 N2601 N2406 N2583 N2584 N2585 and 
XAND5_2131 N2620 N2406 N2566 N2432 N2567 N2602 and 
XAND5_2132 N2625 N2406 N2568 N2569 N2445 N2602 and 
XAND5_2133 N2630 N2570 N2419 N2432 N2571 N2602 and 
XAND5_2134 N2635 N2572 N2419 N2573 N2445 N2602 and 
XAND5_2135 N2640 N2354 N2586 N2380 N2587 N2607 and 
XAND5_2136 N2645 N2354 N2588 N2589 N2393 N2607 and 
XAND5_2137 N2650 N2590 N2367 N2380 N2591 N2607 and 
XAND5_2138 N2655 N2592 N2367 N2593 N2393 N2607 and 
XAND2_2139 N2692 N2354 N2620 and 
XAND2_2140 N2693 N2367 N2620 and 
XAND2_2141 N2694 N2380 N2620 and 
XAND2_2142 N2695 N2393 N2620 and 
XAND2_2143 N2696 N2354 N2625 and 
XAND2_2144 N2697 N2367 N2625 and 
XAND2_2145 N2698 N2380 N2625 and 
XAND2_2146 N2699 N2393 N2625 and 
XAND2_2147 N2700 N2354 N2630 and 
XAND2_2148 N2701 N2367 N2630 and 
XAND2_2149 N2702 N2380 N2630 and 
XAND2_2150 N2703 N2393 N2630 and 
XAND2_2151 N2704 N2354 N2635 and 
XAND2_2152 N2705 N2367 N2635 and 
XAND2_2153 N2706 N2380 N2635 and 
XAND2_2154 N2707 N2393 N2635 and 
XAND2_2155 N2708 N2406 N2640 and 
XAND2_2156 N2709 N2419 N2640 and 
XAND2_2157 N2710 N2432 N2640 and 
XAND2_2158 N2711 N2445 N2640 and 
XAND2_2159 N2712 N2406 N2645 and 
XAND2_2160 N2713 N2419 N2645 and 
XAND2_2161 N2714 N2432 N2645 and 
XAND2_2162 N2715 N2445 N2645 and 
XAND2_2163 N2716 N2406 N2650 and 
XAND2_2164 N2717 N2419 N2650 and 
XAND2_2165 N2718 N2432 N2650 and 
XAND2_2166 N2719 N2445 N2650 and 
XAND2_2167 N2720 N2406 N2655 and 
XAND2_2168 N2721 N2419 N2655 and 
XAND2_2169 N2722 N2432 N2655 and 
XAND2_2170 N2723 N2445 N2655 and 
XOR4_1129 N1602 N1594 N1595 N1596 N1597 or 
XOR4_1130 N1607 N1598 N1599 N1600 N1601 or 
XOR4_2129 N2602 N2594 N2595 N2596 N2597 or 
XOR4_2130 N2607 N2598 N2599 N2600 N2601 or 
XXOR2_11 N1250 N11 N15 xor 
XXOR2_12 N1251 N19 N113 xor 
XXOR2_13 N1252 N117 N121 xor 
XXOR2_14 N1253 N125 N129 xor 
XXOR2_15 N1254 N133 N137 xor 
XXOR2_16 N1255 N141 N145 xor 
XXOR2_17 N1256 N149 N153 xor 
XXOR2_18 N1257 N157 N161 xor 
XXOR2_19 N1258 N165 N169 xor 
XXOR2_110 N1259 N173 N177 xor 
XXOR2_111 N1260 N181 N185 xor 
XXOR2_112 N1261 N189 N193 xor 
XXOR2_113 N1262 N197 N1101 xor 
XXOR2_114 N1263 N1105 N1109 xor 
XXOR2_115 N1264 N1113 N1117 xor 
XXOR2_116 N1265 N1121 N1125 xor 
XXOR2_125 N1274 N11 N117 xor 
XXOR2_126 N1275 N133 N149 xor 
XXOR2_127 N1276 N15 N121 xor 
XXOR2_128 N1277 N137 N153 xor 
XXOR2_129 N1278 N19 N125 xor 
XXOR2_130 N1279 N141 N157 xor 
XXOR2_131 N1280 N113 N129 xor 
XXOR2_132 N1281 N145 N161 xor 
XXOR2_133 N1282 N165 N181 xor 
XXOR2_134 N1283 N197 N1113 xor 
XXOR2_135 N1284 N169 N185 xor 
XXOR2_136 N1285 N1101 N1117 xor 
XXOR2_137 N1286 N173 N189 xor 
XXOR2_138 N1287 N1105 N1121 xor 
XXOR2_139 N1288 N177 N193 xor 
XXOR2_140 N1289 N1109 N1125 xor 
XXOR2_141 N1290 N1250 N1251 xor 
XXOR2_142 N1293 N1252 N1253 xor 
XXOR2_143 N1296 N1254 N1255 xor 
XXOR2_144 N1299 N1256 N1257 xor 
XXOR2_145 N1302 N1258 N1259 xor 
XXOR2_146 N1305 N1260 N1261 xor 
XXOR2_147 N1308 N1262 N1263 xor 
XXOR2_148 N1311 N1264 N1265 xor 
XXOR2_149 N1314 N1274 N1275 xor 
XXOR2_150 N1315 N1276 N1277 xor 
XXOR2_151 N1316 N1278 N1279 xor 
XXOR2_152 N1317 N1280 N1281 xor 
XXOR2_153 N1318 N1282 N1283 xor 
XXOR2_154 N1319 N1284 N1285 xor 
XXOR2_155 N1320 N1286 N1287 xor 
XXOR2_156 N1321 N1288 N1289 xor 
XXOR2_157 N1338 N1290 N1293 xor 
XXOR2_158 N1339 N1296 N1299 xor 
XXOR2_159 N1340 N1290 N1296 xor 
XXOR2_160 N1341 N1293 N1299 xor 
XXOR2_161 N1342 N1302 N1305 xor 
XXOR2_162 N1343 N1308 N1311 xor 
XXOR2_163 N1344 N1302 N1308 xor 
XXOR2_164 N1345 N1305 N1311 xor 
XXOR2_165 N1346 N1266 N1342 xor 
XXOR2_166 N1347 N1267 N1343 xor 
XXOR2_167 N1348 N1268 N1344 xor 
XXOR2_168 N1349 N1269 N1345 xor 
XXOR2_169 N1350 N1270 N1338 xor 
XXOR2_170 N1351 N1271 N1339 xor 
XXOR2_171 N1352 N1272 N1340 xor 
XXOR2_172 N1353 N1273 N1341 xor 
XXOR2_173 N1354 N1314 N1346 xor 
XXOR2_174 N1367 N1315 N1347 xor 
XXOR2_175 N1380 N1316 N1348 xor 
XXOR2_176 N1393 N1317 N1349 xor 
XXOR2_177 N1406 N1318 N1350 xor 
XXOR2_178 N1419 N1319 N1351 xor 
XXOR2_179 N1432 N1320 N1352 xor 
XXOR2_180 N1445 N1321 N1353 xor 
XXOR2_1171 N1724 N11 N1692 xor 
XXOR2_1172 N1725 N15 N1693 xor 
XXOR2_1173 N1726 N19 N1694 xor 
XXOR2_1174 N1727 N113 N1695 xor 
XXOR2_1175 N1728 N117 N1696 xor 
XXOR2_1176 N1729 N121 N1697 xor 
XXOR2_1177 N1730 N125 N1698 xor 
XXOR2_1178 N1731 N129 N1699 xor 
XXOR2_1179 N1732 N133 N1700 xor 
XXOR2_1180 N1733 N137 N1701 xor 
XXOR2_1181 N1734 N141 N1702 xor 
XXOR2_1182 N1735 N145 N1703 xor 
XXOR2_1183 N1736 N149 N1704 xor 
XXOR2_1184 N1737 N153 N1705 xor 
XXOR2_1185 N1738 N157 N1706 xor 
XXOR2_1186 N1739 N161 N1707 xor 
XXOR2_1187 N1740 N165 N1708 xor 
XXOR2_1188 N1741 N169 N1709 xor 
XXOR2_1189 N1742 N173 N1710 xor 
XXOR2_1190 N1743 N177 N1711 xor 
XXOR2_1191 N1744 N181 N1712 xor 
XXOR2_1192 N1745 N185 N1713 xor 
XXOR2_1193 N1746 N189 N1714 xor 
XXOR2_1194 N1747 N193 N1715 xor 
XXOR2_1195 N1748 N197 N1716 xor 
XXOR2_1196 N1749 N1101 N1717 xor 
XXOR2_1197 N1750 N1105 N1718 xor 
XXOR2_1198 N1751 N1109 N1719 xor 
XXOR2_1199 N1752 N1113 N1720 xor 
XXOR2_1200 N1753 N1117 N1721 xor 
XXOR2_1201 N1754 N1121 N1722 xor 
XXOR2_1202 N1755 N1125 N1723 xor 
XXOR2_21 N2250 N21 N25 xor 
XXOR2_22 N2251 N29 N213 xor 
XXOR2_23 N2252 N217 N221 xor 
XXOR2_24 N2253 N225 N229 xor 
XXOR2_25 N2254 N233 N237 xor 
XXOR2_26 N2255 N241 N245 xor 
XXOR2_27 N2256 N249 N253 xor 
XXOR2_28 N2257 N257 N261 xor 
XXOR2_29 N2258 N265 N269 xor 
XXOR2_210 N2259 N273 N277 xor 
XXOR2_211 N2260 N281 N285 xor 
XXOR2_212 N2261 N289 N293 xor 
XXOR2_213 N2262 N297 N2101 xor 
XXOR2_214 N2263 N2105 N2109 xor 
XXOR2_215 N2264 N2113 N2117 xor 
XXOR2_216 N2265 N2121 N2125 xor 
XXOR2_225 N2274 N21 N217 xor 
XXOR2_226 N2275 N233 N249 xor 
XXOR2_227 N2276 N25 N221 xor 
XXOR2_228 N2277 N237 N253 xor 
XXOR2_229 N2278 N29 N225 xor 
XXOR2_230 N2279 N241 N257 xor 
XXOR2_231 N2280 N213 N229 xor 
XXOR2_232 N2281 N245 N261 xor 
XXOR2_233 N2282 N265 N281 xor 
XXOR2_234 N2283 N297 N2113 xor 
XXOR2_235 N2284 N269 N285 xor 
XXOR2_236 N2285 N2101 N2117 xor 
XXOR2_237 N2286 N273 N289 xor 
XXOR2_238 N2287 N2105 N2121 xor 
XXOR2_239 N2288 N277 N293 xor 
XXOR2_240 N2289 N2109 N2125 xor 
XXOR2_241 N2290 N2250 N2251 xor 
XXOR2_242 N2293 N2252 N2253 xor 
XXOR2_243 N2296 N2254 N2255 xor 
XXOR2_244 N2299 N2256 N2257 xor 
XXOR2_245 N2302 N2258 N2259 xor 
XXOR2_246 N2305 N2260 N2261 xor 
XXOR2_247 N2308 N2262 N2263 xor 
XXOR2_248 N2311 N2264 N2265 xor 
XXOR2_249 N2314 N2274 N2275 xor 
XXOR2_250 N2315 N2276 N2277 xor 
XXOR2_251 N2316 N2278 N2279 xor 
XXOR2_252 N2317 N2280 N2281 xor 
XXOR2_253 N2318 N2282 N2283 xor 
XXOR2_254 N2319 N2284 N2285 xor 
XXOR2_255 N2320 N2286 N2287 xor 
XXOR2_256 N2321 N2288 N2289 xor 
XXOR2_257 N2338 N2290 N2293 xor 
XXOR2_258 N2339 N2296 N2299 xor 
XXOR2_259 N2340 N2290 N2296 xor 
XXOR2_260 N2341 N2293 N2299 xor 
XXOR2_261 N2342 N2302 N2305 xor 
XXOR2_262 N2343 N2308 N2311 xor 
XXOR2_263 N2344 N2302 N2308 xor 
XXOR2_264 N2345 N2305 N2311 xor 
XXOR2_265 N2346 N2266 N2342 xor 
XXOR2_266 N2347 N2267 N2343 xor 
XXOR2_267 N2348 N2268 N2344 xor 
XXOR2_268 N2349 N2269 N2345 xor 
XXOR2_269 N2350 N2270 N2338 xor 
XXOR2_270 N2351 N2271 N2339 xor 
XXOR2_271 N2352 N2272 N2340 xor 
XXOR2_272 N2353 N2273 N2341 xor 
XXOR2_273 N2354 N2314 N2346 xor 
XXOR2_274 N2367 N2315 N2347 xor 
XXOR2_275 N2380 N2316 N2348 xor 
XXOR2_276 N2393 N2317 N2349 xor 
XXOR2_277 N2406 N2318 N2350 xor 
XXOR2_278 N2419 N2319 N2351 xor 
XXOR2_279 N2432 N2320 N2352 xor 
XXOR2_280 N2445 N2321 N2353 xor 
XXOR2_2171 N2724 N21 N2692 xor 
XXOR2_2172 N2725 N25 N2693 xor 
XXOR2_2173 N2726 N29 N2694 xor 
XXOR2_2174 N2727 N213 N2695 xor 
XXOR2_2175 N2728 N217 N2696 xor 
XXOR2_2176 N2729 N221 N2697 xor 
XXOR2_2177 N2730 N225 N2698 xor 
XXOR2_2178 N2731 N229 N2699 xor 
XXOR2_2179 N2732 N233 N2700 xor 
XXOR2_2180 N2733 N237 N2701 xor 
XXOR2_2181 N2734 N241 N2702 xor 
XXOR2_2182 N2735 N245 N2703 xor 
XXOR2_2183 N2736 N249 N2704 xor 
XXOR2_2184 N2737 N253 N2705 xor 
XXOR2_2185 N2738 N257 N2706 xor 
XXOR2_2186 N2739 N261 N2707 xor 
XXOR2_2187 N2740 N265 N2708 xor 
XXOR2_2188 N2741 N269 N2709 xor 
XXOR2_2189 N2742 N273 N2710 xor 
XXOR2_2190 N2743 N277 N2711 xor 
XXOR2_2191 N2744 N281 N2712 xor 
XXOR2_2192 N2745 N285 N2713 xor 
XXOR2_2193 N2746 N289 N2714 xor 
XXOR2_2194 N2747 N293 N2715 xor 
XXOR2_2195 N2748 N297 N2716 xor 
XXOR2_2196 N2749 N2101 N2717 xor 
XXOR2_2197 N2750 N2105 N2718 xor 
XXOR2_2198 N2751 N2109 N2719 xor 
XXOR2_2199 N2752 N2113 N2720 xor 
XXOR2_2200 N2753 N2117 N2721 xor 
XXOR2_2201 N2754 N2121 N2722 xor 
XXOR2_2202 N2755 N2125 N2723 xor 
XNOT1_181 N1554 N1354 not 
XNOT1_182 N1555 N1367 not 
XNOT1_183 N1556 N1380 not 
XNOT1_184 N1557 N1354 not 
XNOT1_185 N1558 N1367 not 
XNOT1_186 N1559 N1393 not 
XNOT1_187 N1560 N1354 not 
XNOT1_188 N1561 N1380 not 
XNOT1_189 N1562 N1393 not 
XNOT1_190 N1563 N1367 not 
XNOT1_191 N1564 N1380 not 
XNOT1_192 N1565 N1393 not 
XNOT1_193 N1566 N1419 not 
XNOT1_194 N1567 N1445 not 
XNOT1_195 N1568 N1419 not 
XNOT1_196 N1569 N1432 not 
XNOT1_197 N1570 N1406 not 
XNOT1_198 N1571 N1445 not 
XNOT1_199 N1572 N1406 not 
XNOT1_1100 N1573 N1432 not 
XNOT1_1101 N1574 N1406 not 
XNOT1_1102 N1575 N1419 not 
XNOT1_1103 N1576 N1432 not 
XNOT1_1104 N1577 N1406 not 
XNOT1_1105 N1578 N1419 not 
XNOT1_1106 N1579 N1445 not 
XNOT1_1107 N1580 N1406 not 
XNOT1_1108 N1581 N1432 not 
XNOT1_1109 N1582 N1445 not 
XNOT1_1110 N1583 N1419 not 
XNOT1_1111 N1584 N1432 not 
XNOT1_1112 N1585 N1445 not 
XNOT1_1113 N1586 N1367 not 
XNOT1_1114 N1587 N1393 not 
XNOT1_1115 N1588 N1367 not 
XNOT1_1116 N1589 N1380 not 
XNOT1_1117 N1590 N1354 not 
XNOT1_1118 N1591 N1393 not 
XNOT1_1119 N1592 N1354 not 
XNOT1_1120 N1593 N1380 not 
XNOT1_281 N2554 N2354 not 
XNOT1_282 N2555 N2367 not 
XNOT1_283 N2556 N2380 not 
XNOT1_284 N2557 N2354 not 
XNOT1_285 N2558 N2367 not 
XNOT1_286 N2559 N2393 not 
XNOT1_287 N2560 N2354 not 
XNOT1_288 N2561 N2380 not 
XNOT1_289 N2562 N2393 not 
XNOT1_290 N2563 N2367 not 
XNOT1_291 N2564 N2380 not 
XNOT1_292 N2565 N2393 not 
XNOT1_293 N2566 N2419 not 
XNOT1_294 N2567 N2445 not 
XNOT1_295 N2568 N2419 not 
XNOT1_296 N2569 N2432 not 
XNOT1_297 N2570 N2406 not 
XNOT1_298 N2571 N2445 not 
XNOT1_299 N2572 N2406 not 
XNOT1_2100 N2573 N2432 not 
XNOT1_2101 N2574 N2406 not 
XNOT1_2102 N2575 N2419 not 
XNOT1_2103 N2576 N2432 not 
XNOT1_2104 N2577 N2406 not 
XNOT1_2105 N2578 N2419 not 
XNOT1_2106 N2579 N2445 not 
XNOT1_2107 N2580 N2406 not 
XNOT1_2108 N2581 N2432 not 
XNOT1_2109 N2582 N2445 not 
XNOT1_2110 N2583 N2419 not 
XNOT1_2111 N2584 N2432 not 
XNOT1_2112 N2585 N2445 not 
XNOT1_2113 N2586 N2367 not 
XNOT1_2114 N2587 N2393 not 
XNOT1_2115 N2588 N2367 not 
XNOT1_2116 N2589 N2380 not 
XNOT1_2117 N2590 N2354 not 
XNOT1_2118 N2591 N2393 not 
XNOT1_2119 N2592 N2354 not 
XNOT1_2120 N2593 N2380 not 
.ENDS
